US06498159B1
1-(3-Amino-3-methyl-1-butynyl)-4-[(3-chloro-4-methoxybenzyl)amino]-6-phthalazinecarbonitrile Hydrochloride
0.39 ml triethylamine was added to a mixture of 500 mg 1-chloro-4-[(3-chloro-4-methoxybenzyl)amino]-6-phthalazine carbonitrile, 53 mg cuprous iodide, 98 mg dichlorobis(triphenylphosphine)palladium (II), 347 mg 3-amino-3-methyl-1-butyne, and 10 ml dimethylformamide, and the mixture was stirred at 80° C. for 3 hr in a nitrogen atmosphere. After cooling, ethyl acetate was added to the reaction solution, then water and conc. aqueous ammonia were added thereto, and the organic layer was recovered. The organic layer was washed with dilute aqueous ammonia and brine, and dried over anhydrous sodium sulfate. It was filtered and the filtrate was evaporated. The resulting residue was purified by NH-form silica gel column chromatography to give 446 mg of the title compound. The product was converted in a usual manner into the hydrochloride.

reactant | triethylamine | 0.39 ml | C(C)N(CC)CC | C6H15N
reactant | 1-chloro-4-[(3-chloro-4-methoxybenzyl)amino]-6-phthalazine carbonitrile | 500 mg | ClC1=NN=C(C2=CC(=CC=C12)C#N)NCC1=CC(=C(C=C1)OC)Cl | C17H12Cl2N4O
reactant | 3-amino-3-methyl-1-butyne | 347 mg | NC(C#C)(C)C | C5H9N
reactant | ammonia | N | H3N
catalyst | dichlorobis(triphenylphosphine)palladium | 98 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(3-Amino-3-methyl-1-butynyl)-4-[(3-chloro-4-methoxybenzyl)amino]-6-phthalazinecarbonitrile Hydrochloride | 446 mg | Cl.NC(C#CC1=NN=C(C2=CC(=CC=C12)C#N)NCC1=CC(=C(C=C1)OC)Cl)(C)C | InChI=1S/C22H20ClN5O.ClH/c1-22(2,25)9-8-19-16-6-4-14(12-24)10-17(16)21(28-27-19)26-13-15-5-7-20(29-3)18(23)11-15;/h4-7,10-11H,13,25H2,1-3H3,(H,26,28);1H
